US07618960B2
Synthesis of 5-((S)-1-azidoethyl)-1,2,3-trifluorobenzene
To a solution of (R)-1-(3,4,5-trifluorophenyl)ethanol (3.6 g) and diphenylphosphoric azide (6.0 ml) in toluene (70 ml), 1,8-diazabicyclo[5,4,0]undec-7-ene (4.1 ml) was added dropwise under ice-cooling. The reaction solution was stirred at the same temperature for one hour and at room temperature overnight. Water was added to the reaction solution, and the organic layer was separated. Then, the aqueous layer was subjected to extraction with toluene again. The organic layers were combined and sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution, and brine. The organic layers were dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=49:1) to obtain 858 mg of the title compound.

reactant | (R)-1-(3,4,5-trifluorophenyl)ethanol | 3.6 g | FC=1C=C(C=C(C1F)F)[C@@H](C)O | C8H7F3O
reactant | diphenylphosphoric azide | 6.0 ml | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | Water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,8-diazabicyclo[5,4,0]undec-7-ene | 4.1 ml | N12CCCCCC2=NCCC1 | C9H16N2
product | 5-((S)-1-azidoethyl)-1,2,3-trifluorobenzene | 858 mg | N(=[N+]=[N-])[C@@H](C)C=1C=C(C(=C(C1)F)F)F | C8H6F3N3
